US09108957B2
To a solution of 4-(4-methoxy-benzyl)-6-methyl-[1,4]oxazepan-3-one (4.35 g, 17.5 mmol) in tetrahydrofuran (10.0 ml) was added 1M borane-tetrahydrofuran complex in tetrahydrofuran (52.3 ml, 52.3 mmol) at 0° C. The mixture was stirred at room temperature for 4 hours. After cooling to 0° C., methanol (20 ml) and 6N sodium hydroxide aqueous solution (30 ml) was added carefully. The mixture was refluxed for 2 hours and cooled to room temperature. The organic solvent was removed under reduced pressure. The residue was partitioned between saturated ammonium chloride solution and ethyl acetate. The organic layer was washed with brine, dried over sodium sulfate and concentrated in vacuo. The residue was purified by silica gel column chromatography (eluant; hexane/ethyl acetate=1/1) to afford 4-(4-methoxy-benzyl)-6-methyl-[1,4]oxazepane as colorless oil (3.24 g, 79%).

reactant | 4-(4-methoxy-benzyl)-6-methyl-[1,4]oxazepan-3-one | 17.5 mmol, 4.35 g | COC1=CC=C(CN2C(COCC(C2)C)=O)C=C1 | C14H19NO3
reactant | methanol | 20 ml | CO | CH4O
reactant | sodium hydroxide | 6N, 30 ml | [OH-].[Na+]
solvent | tetrahydrofuran | 10.0 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 52.3 mmol, 52.3 ml | O1CCCC1 | C4H8O
product | 4-(4-methoxy-benzyl)-6-methyl-[1,4]oxazepane | 3.24 g, 79% | COC1=CC=C(CN2CCOCC(C2)C)C=C1 | C14H21NO2
